US06710024B2
1-cyano-1-phenylethylene;
1-alkoxycarbonyl-1-phenylethylene; 1,1-dialkoxycarbonyl-2-ethylethylene; 1,1-dialkoxycarbonyl-2-phenylethylene, 1,1-dialkoxycarbonyl-2,2-dimethylethylene; 1,1-dialkoxycarbonylmethylethylene; 9-methylenexanthene; 9-methylenethioxanthene, 9-methylene-10-H-acridine and mixtures of two or more thereof.

reactant | 9-methylenexanthene | C=C1C2=CC=CC=C2OC=2C=CC=CC12 | C14H10O
reactant | 9-methylenethioxanthene | C=C1C2=CC=CC=C2SC=2C=CC=CC12 | C14H10S
reactant | 9-methylene-10-H-acridine | C=C1C2=CC=CC=C2NC=2C=CC=CC12 | C14H11N
product | 1-cyano-1-phenylethylene | C(#N)C(=C)C1=CC=CC=C1 | C9H7N
